US04063925
1,3-Dimethyl-4-(2,4-dichlorobenzoyl)-5-hydroxypyrazole hydrochloride
To 0.3 g. of 1,3-dimethyl-4-(2,4-dichlorobenzoyl)-5-hydroxypyrazole is added 2 ml. of conc. HCl and the resulting mixture is stirred at room temperature for 6 hours. After completion of the reaction, the reaction mixture is allowed to cool and the so separated desired product is recovered by filtration. The product is washed with a small amount of methanol and then with n-hexane and next dried to give 0.20 g. of the desired product as white powders having a melting point of 115°-125° C (with decomp.) Yield 57.1%.

reactant | 1,3-dimethyl-4-(2,4-dichlorobenzoyl)-5-hydroxypyrazole | CN1N=C(C(=C1O)C(C1=C(C=C(C=C1)Cl)Cl)=O)C | C12H10Cl2N2O2
reactant | HCl | Cl | ClH
product | 1,3-Dimethyl-4-(2,4-dichlorobenzoyl)-5-hydroxypyrazole hydrochloride | Yield 57.1% | Cl.CN1N=C(C(=C1O)C(C1=C(C=C(C=C1)Cl)Cl)=O)C | InChI=1S/C12H10Cl2N2O2.ClH/c1-6-10(12(18)16(2)15-6)11(17)8-4-3-7(13)5-9(8)14;/h3-5,18H,1-2H3;1H
